US07183270B2
To a solution of (S)-2-tert-butoxycarbonylamino-6-hydroxy-hexanoic acid (1 g, 6 mmol) in 30 mL of CH2Cl2 and 5 mL of MeOH at rt was slowly added TMSCHN2 (10 mL), and the reaction mixture was left with stirring for 1 h. The solvent was remove under reduced pressure, and the resulting residue was diluted with water and EtOAc. The organic layer was separated, dried over Na2SO4, and concentrated to afford an oil (S)-2-tert-butoxycarbonylamino-6-hydroxy-hexanoic acid methyl ester. MS [M+H]+ 262.

reactant | (S)-2-tert-butoxycarbonylamino-6-hydroxy-hexanoic acid | 6 mmol, 1 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CCCCO | C11H21NO5
reactant | TMSCHN2 | 10 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 mL | CO | CH4O
product | (S)-2-tert-butoxycarbonylamino-6-hydroxy-hexanoic acid methyl ester | COC([C@H](CCCCO)NC(=O)OC(C)(C)C)=O | C12H23NO5
